US07842685B2
Synthesis of N-(2-(3-fluoro-4-(5-(1-phenylcyclopropyl)[1,3]thiazolo[5,4-b]pyridin-2-yl)phenyl)ethyl)acetamide
2-(3-Fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridin-2-yl)phenyl)-ethanamine (90 mg, 0.23 mmol) was dissolved in THF (2.3 mL) before acetyl chloride (33 μl, 0.462 mmol) was added and stirred at ambient temperature for 2 h. The reaction mixture was diluted with 100 mL of DCM, added to a separatory funnel, partitioned with sodium bicarbonate (saturated, aqueous), washed 2 times with 75 mL of sodium bicarbonate (saturated, aqueous), separated, dried over sodium sulfate, and concentrated via rotovap to give the title compound after purification via preparatory LC. MS (ESI) m/z: Calculated: 431.1; Observed: 432.1 (M++H).

reactant | 2-(3-Fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridin-2-yl)phenyl)-ethanamine | 0.23 mmol, 90 mg | FC=1C=C(C=CC1C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=CC=C1)CCN | C23H20FN3S
reactant | acetyl chloride | 0.462 mmol, 33 μl | C(C)(=O)Cl | C2H3ClO
solvent | THF | 2.3 mL | C1CCOC1 | C4H8O
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
product | N-(2-(3-fluoro-4-(5-(1-phenylcyclopropyl)[1,3]thiazolo[5,4-b]pyridin-2-yl)phenyl)ethyl)acetamide | FC=1C=C(C=CC1C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=CC=C1)CCNC(C)=O | C25H22FN3OS
